US09238631B2
d) Di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-{3-[4-(3-hydroxypropyl)phenyl]-propyl}-L-glutamate
To a solution of 316 mg (0.59 mmol) di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-{(E)-3-[4-(3-hydroxypropyl)phenyl]prop-2-en-1-yl}-L-glutamate in 29 mL of methanol, palladium (10% on charcoal, 126 mg) was added and the suspension was stirred overnight at room temperature under a hydrogen atmosphere. The mixture was filtered over celite, and the solvent was evaporated. The remaining material was used without purification.

reactant | di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-{(E)-3-[4-(3-hydroxypropyl)phenyl]prop-2-en-1-yl}-L-glutamate | 0.59 mmol, 316 mg | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)C\C=C\C1=CC=C(C=C1)CCCO)C(=O)OC(C)(C)C | C30H47NO7
solvent | methanol | 29 mL | CO | CH4O
catalyst | palladium | 126 mg | [Pd] | Pd
product | Di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-{3-[4-(3-hydroxypropyl)phenyl]-propyl}-L-glutamate | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CCCC1=CC=C(C=C1)CCCO)C(=O)OC(C)(C)C | C30H49NO7
